US05677464
To 2.0 g of (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoic acid was added 20 ml of thionyl chloride and the mixture was stirred at 80° C. for 40 minutes. The reaction solution was concentrated under reduced pressure to give 2.1 g of (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride as a pale yellow oil. This product was used for the next step without purification.

reactant | (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoic acid | 2.0 g | FC(COC1=CC=C(C=C1)N1C=NN(C1=O)[C@@H](C(=O)O)C)(C(F)F)F | C14H13F4N3O4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride | 2.1 g | FC(COC1=CC=C(C=C1)N1C=NN(C1=O)[C@@H](C(=O)Cl)C)(C(F)F)F | C14H12ClF4N3O3
